US04252947
250 g of potassium hydroxide were added to a solution of 500 g of trans (3-methoxy-2-piperidyl)-2-propanone hydrobromide in 500 ml of ice water and the mixture was extracted with methylene chloride. The combined organic phases were dried, treated with 25 g of carbon black and evaporated to dryness under reduced pressure to obtain 338.5 g of trans (3-methoxy-2-piperidyl)-2-propanone in the form of an oil which was used as is for the next step.

reactant | potassium hydroxide | 250 g | [OH-].[K+]
reactant | trans (3-methoxy-2-piperidyl)-2-propanone hydrobromide | 500 g | Br.CO[C@H]1[C@@H](NCCC1)CC(C)=O
product | trans (3-methoxy-2-piperidyl)-2-propanone | 338.5 g | CO[C@H]1[C@@H](NCCC1)CC(C)=O | C9H17NO2
